US05352792
To a solution of 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethyl-thio)-3-cephem-4-carboxylic acid diphenylmethyl ester (800 mg: 1.06 mMol.) and (Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetic acid (728 mg: 1.11 mMol.) in chloromethane (8 ml) cooling at -30° C. are added N-methylmorpholine (0.27 ml: 2.46 mMol.), phenyl dichlorophosphate (0.19 ml: 1.27 mMol.), and the mixture is stirred at -30° C. for 30 minutes. The reaction mixture is mixed with 10% hydrochloric acid (1 ml), diluted with water, and extracted with ethyl acetate. The extract washed with brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene: ethyl acetate=10:1) to give 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (1.07 g) as yellow foam. Yield: 73%.

reactant | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethyl-thio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.06 mMol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetic acid | 1.11 mMol, 728 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H31N3O5S
reactant | N-methylmorpholine | 2.46 mMol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 1.27 mMol, 0.19 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | chloromethane | 8 ml | ClC | CH3Cl
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.07 g, Yield: 73% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OCC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C81H64N8O7S4
